US05534634
A two-necked flask having a dry ice condenser fitted on top was charged with 50 ml of dry dimethylformamide and 2 g of a 60% strength by weight suspension of sodium hydride in paraffin, and subsequently 7.3 g of 4-chlorothiophenol in 10 ml of dimethylformamide were added dropwise. Chlorotrifluoroethane was then passed in at a reaction temperature of about 60° C., until the gas began to condense in the dry ice condenser. The mixture was stirred for a further 5 hours and the course of the reaction was monitored by thin-layer chromatography (silica gel; ethyl acetate/petroleum ether 1/5). The reaction mixture was worked up by pouring into water and extracting with dichloromethane. The combined organic extracts were dried and the solvent was distilled off at reduced pressure. The oily residue was subsequently distilled (43°-45° C./0.1 mbar), giving 8.8 g of 4-chloro(2',2',2'-trifluoroethylthio)benzene

reactant | sodium hydride | [H-].[Na+]
reactant | 4-chlorothiophenol | 7.3 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | Chlorotrifluoroethane | ClCC(F)(F)F | C2H2ClF3
reactant | dry ice | C(=O)=O | CO2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-chloro(2',2',2'-trifluoroethylthio)benzene | 8.8 g | ClC1=CC=C(C=C1)SCC(F)(F)F | C8H6ClF3S
